US07115595B2
4-Nitrobenzyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-{4-[(methylamino)carbonyl]phenyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (60 mg) obained in the above Step b) was dissolved in THF (6 ml) and ion-exchange water (4.7 ml), and thereto was added 0.1 N aqueous sodium hydrogen carbonate solution (1.3 ml). To the mixture was added 10% palladium on carbon (120 mg), and the mixture was subjected to hydrogenolysis for 30 minutes under atmospheric pressure at room temperature. The catalyst was removed by filtration, and washed with water, and chloroform was added to the filtrate, and extracted and separated (three times). The organic solvent in the aqueous layer was removed under reduced pressure, and the resultant was purified by polymer chromatography (CHP-20P). The fractions eluted with 0–2% aqueous THF solution were combined and lyophilized to give (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-{4-[(methylamino)carbonyl]-phenyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt (18 mg).

reactant | 4-Nitrobenzyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-{4-[(methylamino)carbonyl]phenyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 60 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)C(=O)NC | C24H23N3O7
reactant | water | 4.7 ml | O | H2O
reactant | sodium hydrogen carbonate | 0.1 N, 1.3 ml | C(O)([O-])=O.[Na+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 120 mg | [Pd] | Pd
product | (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-{4-[(methylamino)carbonyl]-phenyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt | 18 mg | [Na+].O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])C1=CC=C(C=C1)C(=O)NC | InChI=1S/C17H18N2O5.Na/c1-8(20)13-12-7-11(14(17(23)24)19(12)16(13)22)9-3-5-10(6-4-9)15(21)18-2;/h3-6,8,12-13,20H,7H2,1-2H3,(H,18,21)(H,23,24);/q;+1/p-1/t8-,12-,13-;/m1./s1
